US07214673B2
2-Methyl-10-(4-methyl-3-(S)-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene
Add aqueous 37% formaldehyde (45 mL, 0.55 mmol) to a solution of 2-methyl-10-(3-(S)-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diazabenzo[f]azulene (200 mg, 0.5 mmol) in dichloroethane (30 mL). Stir the mixture 2 minutes and add sodium triacetoxyborohydride (159 mg, 0.75 mmol). Stir the suspension for 30 minutes and quench with a saturated aqueous solution of sodium bicarbonate. Extract the aqueous phase 3 times with dichloromethane and combine the organic phases, dry (MgSO4), filter and concentrate. Purify the residue via chromatography eluting with methylene chloride/methanol (90:10) to provide the title compound as a yellow solid (143 mg, 67%): mp 87–91° C.: 1H NMR (CDCl3): δ1.78 (m, 1H), 1.96 (m, 1H), 2.22 (m, 1H), 2.32 (s, 3H), 2.35 (s, 3H), 2.38 (ddd, 1H), 2.58 (ddd, 1H), 2.75 (ddd, 1H), 2.86 (ddd, 1H), 2.94 (dd, 1H), 3.16 (ddd, 1H), 3.90 (m, 1H), 4.05 (m, 1H), 4.94 (s, 1H), 6.30 (s, 1H), 6.60 (d, 1H), 6.87 (t, 1H), 6.98 (t, 1H), 7.04 (d, 1H), 7.17–7.32 (m, 5H); MS (APCI) m/z (rel intensity) 417 (100).

reactant | formaldehyde | 0.55 mmol, 45 mL | C=O | CH2O
reactant | 2-methyl-10-(3-(S)-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diazabenzo[f]azulene | 0.5 mmol, 200 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3 | C24H26N4S
reactant | sodium triacetoxyborohydride | 0.75 mmol, 159 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | 2-Methyl-10-(4-methyl-3-(S)-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | 143 mg, 67% | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC=C3 | C25H28N4S
